US04308263
The Li2 salt of phosphonoformic acid phenyl ester
25.8 parts by weight of diethoxyphosphonoformic acid phenyl ester are dissolved in 80 parts by volume of acetonitrile, and 36.7 parts by weight of trimethylbromosilane are added at 20° C. The mixture is stirred at 40°-45° C. for 2 hours and the solution is then evaporated in vacuo. The evaporation residue is taken up in 60 parts by volume of water and, after separating off the hexamethyldisiloxane formed, the resulting solution is neutralised with dilute lithium hydroxide solution and then evaporated in vacuo.

reactant | diethoxyphosphonoformic acid phenyl ester | C1(=CC=CC=C1)OC(=O)P(=O)(OOCC)OOCC | C11H15O7P
reactant | lithium hydroxide | [OH-].[Li+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | trimethylbromosilane | C[Si](Br)(C)C | C3H9BrSi
product | phosphonoformic acid phenyl ester | C1(=CC=CC=C1)OC(=O)P(=O)(O)O | C7H7O5P
